US05541219
A mixture of 4-bromo-2-methoxyphenyl benzoate (5 g), sodium hydroxide (3 g), water (5 mL) and ethanol (50 mL) is heated at reflux for 1.5 hours. It is then evaporated to low bulk and the resulting residue is treated with water (20 mL) and concentrated hydrochloric acid (10 mL), and extracted with dichloromethane (150 mL). The organic solution is extracted with saturated aqueous sodium bicarbonate solution (3×25 mL), dried over magnesium sulphate and evaporated, to give 5-bromo-2-methoxyphenol (3.25 g), in the form a colorless solid, m.p. 67°-68° C. [Elemental analysis: C,41.5; H,3.5; Br, 37.8%; calculated: C,41.6; H,3.5; Br, 39.5%].

reactant | 4-bromo-2-methoxyphenyl benzoate | 5 g | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C=C1)Br)OC | C14H11BrO3
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | water | 5 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 5-bromo-2-methoxyphenol | 3.25 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
